Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Keflex / Bactrim
 
Attending: ___.
 
Chief Complaint:
Fevers, Rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: 
___ male, previously healthy, presenting with high 
fever,
and pruritic erythematous rash.  Patient reported that several
weeks ago, he developed a boil on his right chest, which he
subsequently popped.  Approximately 1 week ago, the boil
continued to drain pus, increased in size, "appear infected." 
Patient initially presented to his PCP ___ ___, and was
prescribed Bactrim.  During that time, the patient reported a
temperature to 104, which improved within a few days.  3 days
prior to presentation, the patient reported that he "felt sick,"
and presented to an outside hospital, where he was prescribed
Keflex for left middle ear infection.  Patient began to have a
pruritic generalized erythematous rash initially over his chest
and torso.  On the morning of admission, patient noted that 
after
he took a shower, the rash spread across his whole body and he
"looked like a tomato".

In the ED, initial vital signs were 99.1 102 167/97 16 100% on
RA.
Labs were notable for a CBC with a WBC of 3.7 (70% neutrophils,
19% lymphocytes, 3% monocytes, 6.8% eosinophils), BMP WNL, LFTs
with ALT 207, AST 191 146, T bili 0.3, lactate elevated at 2.5. 
ProBNP 44.  UA notable for protein and ketones.
Physical exam was notable for mild erythematous eruption over
bilateral upper extremities, chest, back, and a healing skin
lesion on his right upper chest, with inferior auricular
lymphadenopathy.
Patient was evaluated by dermatology who felt that his syndrome
was overall consistent with DRESS.  She received IV Zofran, IV
Benadryl, 100 mg doxy, 1000 mg of acetaminophen, normal saline,
prednisone 80 mg ×1.

Upon arrival to the floor, the patient tells the story as above.
He reports that he first became ill approximately ___ weeks ago. 

During that time, he was noted to have high fevers, up to 104,
and he went to a clinic.  Reportedly, the doctor told him "his
spleen was enlarged" which was assessed via physical exam,
without radiographic evidence.  He took antibiotics at that 
time,
but he does not know which one. He also reports that he was told
he had a viral infection. Reportedly, he was tested for mono
during that time, and he believes this came back negative.  At
that visit, he was also told that his liver enzymes were
abnormal, but reports no further testing. Review of pharmacy
records show that in early ___, he took a course of penicillin
and most likely dexamethasone, so it is unclear if this is the
episode he is mentioning. He did not have a rash at that time. 

He reports that in the last month, he has had increasing fatigue
and lack of energy.  He tells a story as above, beginning with a
boil, with antibiotic history as above.  However he notes, that
whenever he has high fevers, he feels extremely unwell,
associated with headaches, chills, rigors.  She reports that the
lymph nodes in his neck swell to the point that is extremely
painful, and seems to be associated both with this incident as
well as his incident of fevers approximately ___ months ago.  He
reports some nausea without vomiting that occurs with these
episodes. On the day of admission, the patient was taking both
Bactrim and Keflex as prescribed.

He otherwise denies chest pain, abdominal pain, dysuria,
diarrhea, bloody bowel movements.  She otherwise denies sick
contacts, recent travel, recent hiking or outdoor activity, or
recent tick bites.  He reports that his family recently traveled
to ___, but he "stayed in hotel" and did not
participate in outdoor activities.

 
Past Medical History:
Denies ___
 
Social History:
___
Family History:
+ DM, Parkinsons, +CAD requiring heart surgery in
his father. He denies FH of cancers. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS: 98.6 PO ___ 20 97 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes dry, with no obvious mucous membranes lesions
Significant postauricular lymphadenopathy, standing down the
anterior cervical chain, lymphadenopathy tender to palpation
Lymph: Cervical lymphadenopathy as well, no axillary or inguinal
lymphadenopathy
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally
GI: Abdomen soft, non-distended, non-tender to palpation, no
appreciable hepatosplenomegaly
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Faint erythematous confluent rash on the upper extremities
and anterior torso, < 1 cm ulceration on right upper chest
without fluctuance
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

DISCHARGE PHYSICAL EXAM
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Improving but still painful post-auricular lymphadenopathy,
also with anterior cervical chain, lymphadenopathy tender to
palpation, particularly on L 
Lymph: Cervical lymphadenopathy as well, no axillary or inguinal
lymphadenopathy
CV: RRR, no mrg
RESP: CTAB 
GI: Abdomen soft, non-distended, non-tender to palpation, no
appreciable hepatosplenomegaly
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Faint erythematous confluent rash on the upper extremities
and anterior torso, < 1 cm ulceration on right upper chest
without fluctuance, UE non pitting edema b/l 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
LABS

___ 03:04PM BLOOD WBC:3.7* RBC:5.28 Hgb:14.5 Hct:44.4 
MCV:84
MCH:27.5 MCHC:32.7 RDW:14.6 RDWSD:45.0 Plt Ct:155
___ 08:10AM BLOOD WBC:3.8*# RBC:5.28 Hgb:14.5 Hct:44.7
MCV:85 MCH:27.5 MCHC:32.4 RDW:14.8 RDWSD:45.5 Plt Ct:184
___ 03:04PM BLOOD Neuts:70.4 ___ Monos:3.0* Eos:6.8
Baso:0.0 Im ___ AbsNeut:2.58 AbsLymp:0.71* AbsMono:0.11*
AbsEos:0.25 AbsBaso:0.00*
___ 08:10AM BLOOD Neuts:34.3 ___ Monos:8.0 Eos:5.3
Baso:0.3 Im ___ AbsNeut:1.29*# AbsLymp:1.94 AbsMono:0.30
AbsEos:0.20 AbsBaso:0.01
___ 07:35AM BLOOD ___ PTT:36.4 ___
___ 08:10AM BLOOD Glucose:93 UreaN:10 Creat:0.8 Na:146*
K:4.5 Cl:103 HCO3:26 AnGap:17*
___ 08:10AM BLOOD ALT:184* AST:74* LD(LDH):303* 
AlkPhos:155*
TotBili:0.3 DirBili:<0.2 IndBili:0.3
___ 03:04PM BLOOD ALT:207* AST:191* LD(LDH):502*
AlkPhos:146* TotBili:0.3
___ 07:35AM BLOOD Albumin:4.1 Calcium:8.0* Phos:4.0 Mg:1.9
___ 08:10AM BLOOD Ferritn:2324*
___ 07:35AM BLOOD HBsAg:NEG HBsAb:NEG HBcAb:NEG
___ 08:10AM BLOOD ANCA:PND
___ 08:10AM BLOOD RheuFac:<10 ___ CRP:36.8*
___ 07:35AM BLOOD HIV Ab:NEG
___ 07:35AM BLOOD HCV Ab:NEG
___ 07:35AM BLOOD CMV VL:NOT DETECT
___ 04:53PM BLOOD Lactate:2.5*
___ 07:59AM BLOOD Lactate:1.4
___ 02:50PM URINE Blood:NEG Nitrite:NEG Protein:30*
Glucose:NEG Ketone:40* Bilirub:SM* Urobiln:2* pH:6.5 Leuks:NEG
___ 02:50PM URINE RBC:<1 WBC:5 Bacteri:NONE Yeast:NONE 
Epi:0

DISHCARGE LABS

WBC 3.8 HB 14.5 Plt 184
Na 146/K 4.5/CL 103/BUN 10/Cr 0.8
AST 74/ALT 184/LDH 303 Alk P ___ Tbili 0.5
Ca 8.7/Phos ___ 2.1
Hep B: negative, HIV negative 
CMV pending
EBV: negative

CRP 36.8

Ferritin 2324

UA: small bili, small protein, neg leuk esterase, neg bacteria

Imaging: 
CT Chest: 
 
1. Mildly enlarged, bilateral axillary lymph nodes up to 1.1 cm 
on the right 
and 1.0 cm in the left.  No supraclavicular, mediastinal or 
hilar 
lymphadenopathy. 
2. 2 mm solid nodule at the left lung apex. 
3. Please refer to separate report for same day CT abdomen 
pelvis study for 
discussion of findings below the diaphragm. 
  
CT NECK
  
1. Increased number and prominence of cervical lymph nodes 
bilaterally which 
are nonspecific.   Involvement of level V lymph nodes can still 
be reactive 
although there are no other signs of ongoing infection.  
Clinically correlate. 

CT ABD/PELVIS
 
No lymphadenopathy by strict size criteria. Nonspecific 
subcentimeter 
mesenteric lymph nodes may be reactive. 
  

 
Brief Hospital Course:
Summary: ___ otherwise healthy presenting with erythroderma, 
fevers, and lymphadenopathy with recent outpatient treatment 
with Bactrim and Keflex, found to have transaminitis, with 
clinical presentation concerning for possible DRESS, however, 
with over 1 month of fevers and lymphadenopathy at home.

ACUTE/ACTIVE PROBLEMS:

#Fevers
#LAD: Patient's differential was broad at admission. Initially 
there was a concern for DRESS and he was given 1 dose of 
steroids before they were discontinued. He received a CT 
neck/chest and abd/pelvis notable for cervical and axillary LAD. 
He was febrile with a Tmax of 101.8 shortly after admission, 
weakness/fatigue, an erythematous rash diffusely on his chest, 
and painful cervical LAD. Differential was broad and 
rheumatology, oncology and ID were consulted. Patient had an 
extensive workup sent outlined in the discharge summary. He was 
started on doxycycline out of a suspicion for tick borne 
illnesses, particularly anaplasmosis (recently traveled to ___) 
and for a L chest skin infection. Patient improved significantly 
with resolution of his palpable LAD. Notable positive labs 
included an elevated ferritin in the 2000s, LDH that trended 
downward, CRP of 32, and leukopenia to 1.8 which improved. 
-will treat with doxycycline for 10 days 
-f/u EBV, CMV,lyme/babesia/anaplasmosis serologies, HTLV
-f/u SPEP, UPEP, immunoglobulins, protein/creatinine urine 
- Mupirocin BID topically to the drained abscess on right chest

# Transaminitis: Patient presenting with elevated LFTs and a
hepatocellular pattern, with ALT of 207 and AST of 191 mild
elevation of alk phos. Given diffuse erythematous rash as above
and ongoing fever, transaminitis could be consistent with DRESS,
however, in speaking with the patient, the transaminitis has 
been
present for at least one month and was commented on by his PCP. 
Coagulation factors not yet drawn in the ED. No other evidence
for asterixis for worsening liver failure. CT abd/pelvis 
unremarkable, liver function tests stably elevated. 
- negative HIV, hepatitis panel

TRANSITIONAL ISSUES
-patient has a number of labs to follow up on including: 
___ 07:25 DSDNA
___ 07:25 PROTEIN ELECTROPHORESIS
___ 07:25 IPT
___ 09:30 DSDNA
Send Outs
___ 07:25 IGG SUBCLASSES 1,2,3,4
___ 09:47 HTLV I AND II, WITH REFLEX TO WESTERN BLOT
___ 08:10 QUANTIFERON-TB GOLD
___ 08:10 BABESIA ANTIBODIES, IGG AND IGM
___ 08:10 ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC 
EHRLICHIA AGENT) IGG/IGM
___ 07:35 EBV PCR, QUANTITATIVE, WHOLE BLOOD
Microbiology
___ 11:20 BLOOD CULTURE Blood Culture, Routine
___ 11:10 BLOOD CULTURE Blood Culture, Routine
___ 01:56 Blood (CMV AB) CMV IgG ANTIBODY; CMV IgM ANTIBODY
___ 15:14 BLOOD CULTURE Blood Culture, Routine
Diagnostic Reports
___ Tissue: immunophenotyping specimen

-Patient should have quantitative immunoglobulins sent as an 
outpatient as well as an EBV monospot test. 

-f/u CT Chest to monitor a solid upper left lung nodule that was 
found on CT
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
2. Cephalexin 500 mg PO Q6H 
3. Sulfameth/Trimethoprim DS 1 TAB PO BID 
4. Ondansetron 4 mg PO Q8H:PRN nausea 
5. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
6. Ibuprofen 200-600 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 12 
hours Disp #*16 Capsule Refills:*0 
2.  Mupirocin Ointment 2% 1 Appl TP BID to drained absecess on 
right chest 
RX *mupirocin [Centany] 2 % 1 application every day Refills:*0 
3.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
4.  Ibuprofen 200-600 mg PO Q6H:PRN Pain - Mild  
5.  Ondansetron 4 mg PO Q8H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fevers
Skin Infection
Inflammatory/Infectious or Autoimmune condition
Elevated liver function tests 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You presented after 4 months of systemic symptoms including high 
grade fevers, lymphadenopathy and abnormal liver enzymes. We 
were initially concerned about an infectious or rheumatologic 
process and we are still concerned about an underlying condition 
that may have been complicated by an overlying infection that is 
now being treated with doxycycline. You have 8 more days of 
doxycycline to complete. 

Please follow up with the ID, rheumatology and hematology 
doctors as ___ outpatient to get more information about your lab 
test results. 

It was a pleasure taking care of you, 
Your ___ Care Team
 
Followup Instructions:
___